US07314877B2
3) Production of 4-carboxy-2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one
6-(2,3-Dihydro-1-benzofuran-5-yl)-4-methoxycarbonyl-2H-pyridazin-3-one (2.0 g, 7.35 mmol) was dissolved in N,N-dimethylformamide (17 mL), and potassium carbonate (2.0 g, 14.7 mmol) and bromomethylcyclopropane (1.2 g, 8.8 mmol) were added to the resultant solution, followed by stirring for two hours at 80° C. The temperature of the reaction mixture was reduced to room temperature, and saturated aqueous sodium hydrogencarbonate solution was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate anhydrate, and the solvent was removed through distillation, to thereby yield 2.66 g of a crude product. The crude product was suspended in methanol (20 mL), and a 2-mol/L aqueous sodium hydroxide solution (20 mL) was added thereto, followed by stirring for one hour at 60° C. After the temperature of the reaction mixture had been reduced to room temperature, water was added thereto, and the mixture was acidified with concentrated hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate anhydrate. The solvent was removed under reduced pressure, and the residue was recrystallized from chloroform-hexane, to thereby yield 1.88 g of the title compound as a yellow powder (81.7%).

reactant | 6-(2,3-Dihydro-1-benzofuran-5-yl)-4-methoxycarbonyl-2H-pyridazin-3-one | 7.35 mmol, 2.0 g | O1CCC2=C1C=CC(=C2)C=2C=C(C(NN2)=O)C(=O)OC | C14H12N2O4
reactant | potassium carbonate | 14.7 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethylcyclopropane | 8.8 mmol, 1.2 g | BrCC1CC1 | C4H7Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
product | 4-carboxy-2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one | C(=O)(O)C=1C(N(N=C(C1)C=1C=CC2=C(CCO2)C1)CC1CC1)=O | C17H16N2O4
